US06492398B1
Form A—Preparations of 4-{[(7-oxo-6,7-dihydro8H-[1,3]thiazolo[5,4-e]indol-8-ylidene)methyl]amino}-N-(4-pyridinylmethyl)-benzenesulfonamide
To a test tube (20 mm by 150 mm) was added a magnetic stir bar, 8-[ethoxymethylidene]-6H-[1,3]thiazolo[5,4-e]indol-7-one (0.123 gram, 0.5 mmol), 4-amino-N-(4-pyridinylmethyl)benzenesulfonamide (0.132 gram, 0.5 mmol) and 95% ethanol (5 milliliters). The reaction mixture was sealed with a rubber septum (14/22) and vented with a 3-inch 18-gauge hypodermic needle. The reaction vessel was placed in an oil bath at room temperature with stirring, and the temperature of the oil bath was then raised to 78° C. and maintained at that temperature for approximately 24 hours. The reaction vessel was removed from the oil bath and allowed to cool until warm to the touch. The resulting precipitate was collected by suction filtration. The solid was washed with excess 95% ethanol and collected by suction filtration. The resultant solid was dried under vacuum for two hours at 40° C. The solid was allowed to cool to yield 52 mg (11%) of the title compound. MS (M+H)=464.

reactant | 8-[ethoxymethylidene]-6H-[1,3]thiazolo[5,4-e]indol-7-one | 0.5 mmol, 0.123 gram | C(C)OC=C1C(NC2=CC=C3C(=C12)SC=N3)=O | C12H10N2O2S
reactant | 4-amino-N-(4-pyridinylmethyl)benzenesulfonamide | 0.5 mmol, 0.132 gram | NC1=CC=C(C=C1)S(=O)(=O)NCC1=CC=NC=C1 | C12H13N3O2S
solvent | ethanol | 5 milliliters | C(C)O | C2H6O
product | 4-{[(7-oxo-6,7-dihydro8H-[1,3]thiazolo[5,4-e]indol-8-ylidene)methyl]amino}-N-(4-pyridinylmethyl)-benzenesulfonamide | 52 mg, 11% | O=C1NC2=CC=C3C(=C2C1=CNC1=CC=C(C=C1)S(=O)(=O)NCC1=CC=NC=C1)SC=N3 | C22H17N5O3S2
